US09422292B2
Iron powder (56 mg, 1 mmol) was added to a mixture of (R)-5-(1,4-dimethyl-6-(6-nitropyridin-3-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine (86 mg, 0.2 mmol) in a mixed solvents of ammonium chloride aqueous (2 mL) and ethanol (10 mL). Once addition was complete, the mixture was heated to 60° C. for 2 hours. The mixture was filtered. The filtrate was concentrated, diluted with water (10 mL), extracted with ethyl acetate (20 mL×2). The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated to give a residue which was purified by column chromatography (silica gel, dichloromethane/methanol=8:1) to afford (R)-5,5′-(1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-6,8(5H)-diyl)dipyridin-2-amine (8 mg, 20%).

reactant | (R)-5-(1,4-dimethyl-6-(6-nitropyridin-3-yl)-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine | 0.2 mmol, 86 mg | CC1=NN=C2N1C1=C(N(C[C@H]2C)C=2C=NC(=CC2)[N+](=O)[O-])C=C(C=C1)C=1C=CC(=NC1)N | C22H20N8O2
reactant | ammonium chloride | 2 mL | [Cl-].[NH4+]
catalyst | Iron | 1 mmol, 56 mg | [Fe] | Fe
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (R)-5,5′-(1,4-dimethyl-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-6,8(5H)-diyl)dipyridin-2-amine | 8 mg, 20% | CC1=NN=C2N1C1=C(N(C[C@H]2C)C=2C=CC(=NC2)N)C=C(C=C1)C=1C=CC(=NC1)N | C22H22N8
